** sch_path: /foss/designs/heichip/opamp_rtr/schematic/xschem/opamp_rtr.sch
.subckt opamp_rtr vdd inp vss inn ibias out
*.PININFO inp:I out:O vdd:B inn:I ibias:I vss:B
MXM6 out1_n inp ncmdiff_n vss sg13_hv_nmos w=5u l=2u ng=4
MXM1 net1 inn ncmdiff_p vdd sg13_hv_pmos w=15u l=2u ng=4
MXM2 ncmdiff_p inp out1_p vdd sg13_hv_pmos w=15u l=2u ng=4
MXM3 ncmdiff_p vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM4 vss net1 net1 vss sg13_hv_nmos w=5u l=4u ng=4
MXM5 out1_p net1 vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM7 ncmdiff_n inn net2 vss sg13_hv_nmos w=5u l=2u ng=4
MXM8 ncmdiff_n ibias vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM9 vdd net2 out1_n vdd sg13_hv_pmos w=15u l=4u ng=4
MXM10 net2 net2 vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM25 nswa vref_p ncmdiff_p ncmdiff_p sg13_hv_pmos w=15u l=1u ng=4
MXM26 nswa nswa vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM27 ncmdiff_n nswa vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM28 ncmdiff_n vref_n nswb vss sg13_hv_nmos w=5u l=1u ng=4
MXM29 nswb nswb vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM30 ncmdiff_p nswb vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM13 out1_n nabn out1_p vss sg13_hv_nmos w=5u l=1u ng=4
MXM14 out1_p nabp out1_n vdd sg13_hv_pmos w=15u l=1u ng=4
MXM15 out1_n vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM16 out1_p nab_ref vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM23 nab_ref vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM24 nab_ref nab_ref vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM17 nabn vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM18 nabn nabn net3 vss sg13_hv_nmos w=5u l=1u ng=4
MXM19 net3 net3 vss vss sg13_hv_nmos w=5u l=1u ng=4
MXM20 nabp nab_ref vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM21 nabp nabp net4 vdd sg13_hv_pmos w=15u l=1u ng=4
MXM22 net4 net4 vdd vdd sg13_hv_pmos w=15u l=1u ng=4
MXM11 out out1_n vdd vdd sg13_hv_pmos w=60u l=1u ng=4
MXM12 out out1_p vss vss sg13_hv_nmos w=20u l=1u ng=4
MXB1 ibias ibias vss vss sg13_hv_nmos w=5u l=4u ng=5
MXB2 vbias_p ibias vss vss sg13_hv_nmos w=5u l=4u ng=5
MXB5 vref_n vref_n vss vss sg13_hv_nmos w=5u l=4u ng=4
MXB6 vref_p ibias vss vss sg13_hv_nmos w=5u l=4u ng=5
MXB3 vbias_p vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXB4 vref_n vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXB7 vref_p vref_p vdd vdd sg13_hv_pmos w=15u l=4u ng=4
CC3 out net5 cap_cmomf w=13.5e-6 l=21e-6
CC2 out net6 cap_cmomf w=13.5e-6 l=21e-6
RR4 net5 out1_n 51.16k $SUB=vss $[rhigh] w=1e-6 l=36e-6 b=0
RR2 net6 out1_p 51.16k $SUB=vss $[rhigh] w=1e-6 l=36e-6 b=0
MDUMMY1 ncmdiff_n ncmdiff_n ncmdiff_n vss sg13_hv_nmos w=5u l=0.45u ng=4
MDUMMY2 ncmdiff_n ncmdiff_n ncmdiff_n vss sg13_hv_nmos w=5u l=0.45u ng=2
MDUMMY3 vss vss vss vss sg13_hv_nmos w=7.5u l=0.45u ng=6
MDUMMY4 vss vss vss vss sg13_hv_nmos w=10u l=0.45u ng=4
MDUMMY5 out1_p out1_p out1_p vss sg13_hv_nmos w=5u l=1u ng=2
MDUMMY6 vdd vdd vdd vdd sg13_hv_pmos w=22.5u l=0.4u ng=6
MDUMMY7 nswa nswa nswa vdd sg13_hv_pmos w=15u l=0.4u ng=2
MDUMMY8 vdd vdd vdd vdd sg13_hv_pmos w=15u l=0.4u ng=4
MDUMMY9 vdd vdd vdd vdd sg13_hv_pmos w=37.5u l=0.4u ng=5
MDUMMY10 out1_n out1_n out1_n vdd sg13_hv_pmos w=15u l=0.4u ng=2
MDUMMY11 vss vss vss vss sg13_hv_nmos w=5u l=0.45u ng=2
RR3 vss vss 25.66k $SUB=vss $[rhigh] w=1e-6 l=18e-6 b=0
**** begin user architecture code


*bias network
*first stage

*output control circuit



**** end user architecture code
.ends
