** sch_path: /foss/designs/heichip/opamp_rtr/schematic/xschem/opamp_rtr.sch
.subckt opamp_rtr vdd inp vss inn ibias out
*.PININFO inp:I out:O vdd:B inn:I ibias:I vss:B
MXM6 out1_n inp ncmdiff_n vss sg13_hv_nmos w=5u l=2u ng=4
MXM1 net1 inn ncmdiff_p ncmdiff_p sg13_hv_pmos w=15u l=2u ng=4
MXM2 ncmdiff_p inp out1_p ncmdiff_p sg13_hv_pmos w=15u l=2u ng=4
MXM3 ncmdiff_p vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=2
MXM4 vss net1 net1 vss sg13_hv_nmos w=5u l=4u ng=4
MXM5 out1_p net1 vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM7 ncmdiff_n inn net2 vss sg13_hv_nmos w=5u l=2u ng=4
MXM8 ncmdiff_n ibias vss vss sg13_hv_nmos w=5u l=4u ng=2
MXM9 vdd net2 out1_n vdd sg13_hv_pmos w=15u l=4u ng=4
MXM10 net2 net2 vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM25 nswa vbias_p ncmdiff_p ncmdiff_p sg13_hv_pmos w=15u l=1u ng=2
MXM26 nswa nswa vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM27 ncmdiff_n nswa vss vss sg13_hv_nmos w=5u l=4u ng=4
MXM28 ncmdiff_n vbias_p nswb vss sg13_hv_nmos w=5u l=1u ng=2
MXM29 nswb nswb vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM30 ncmdiff_p nswb vdd vdd sg13_hv_pmos w=15u l=4u ng=4
MXM13 out1_n nabn out1_p vss sg13_hv_nmos w=5u l=1u ng=2
MXM14 out1_p nabp out1_n vdd sg13_hv_pmos w=15u l=1u ng=2
MXM15 out1_n vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=2
MXM16 out1_p nab_ref vss vss sg13_hv_nmos w=5u l=4u ng=2
MXM23 nab_ref vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=2
MXM24 nab_ref nab_ref vss vss sg13_hv_nmos w=5u l=4u ng=2
MXM17 nabn vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=2
MXM18 nabn nabn net3 vss sg13_hv_nmos w=5u l=1u ng=2
MXM19 net3 net3 vss vss sg13_hv_nmos w=5u l=1u ng=2
MXM20 nabp nab_ref vss vss sg13_hv_nmos w=5u l=4u ng=2
MXM21 nabp nabp net4 vdd sg13_hv_pmos w=15u l=1u ng=2
MXM22 net4 net4 vdd vdd sg13_hv_pmos w=15u l=1u ng=2
MXM11 out out1_n vdd vdd sg13_hv_pmos w=60u l=1u ng=8
MXM12 out out1_p vss vss sg13_hv_nmos w=20u l=1u ng=8
MXB1 ibias ibias vss vss sg13_hv_nmos w=5u l=4u ng=2
MXB2 vbias_p ibias vss vss sg13_hv_nmos w=5u l=4u ng=2
MXB3 vbias_p vbias_p vdd vdd sg13_hv_pmos w=15u l=4u ng=2
CC3 out net5 cap_cmomf w=13.5e-6 l=21e-6
CC2 out net6 cap_cmomf w=13.5e-6 l=21e-6
RR4 net5 out1_n 51.16k $SUB=vss $[rhigh] w=1e-6 l=36e-6 b=0
RR2 net6 out1_p 51.16k $SUB=vss $[rhigh] w=1e-6 l=36e-6 b=0
MDUMMY1 ncmdiff_n ncmdiff_n ncmdiff_n vss sg13_hv_nmos w=5u l=0.45u ng=4
MDUMMY2 ncmdiff_n ncmdiff_n ncmdiff_n vss sg13_hv_nmos w=5u l=0.45u ng=2
MDUMMY10 out1_n out1_n out1_n vdd sg13_hv_pmos w=15u l=1u ng=2
MDUMMY11 out1_p out1_p out1_p vss sg13_hv_nmos w=5u l=1u ng=2
RRDUMMY vss vss 6.455k $SUB=vss $[rhigh] w=1e-6 l=9e-6 b=0 m=2
MDUMMY3 ncmdiff_p ncmdiff_p ncmdiff_p ncmdiff_p sg13_hv_pmos w=15u l=0.4u ng=4
**** begin user architecture code


*bias network
*first stage

*output control circuit



**** end user architecture code
.ends
